US08124610B2
6-(1-(4-chlorobenzyl)-1H-pyrazol-4-ylamino)-N-(thiazol-2-yl)pyridine-3-sulfonamide
Into a Vial was added the 6-Chloro-pyridine-3-sulfonic thiazol-2-ylamide (82 mg, 0.00030 mol), 9,9-DIMETHYL-4,5-BIS(DIPHENYLPHOSPHINO)XANTHENE (21 mg, 0.000036 mol), Tris(dibenzylideneacetone)dipalladium(0) (11 mg, 0.000012 mol), [B] 1-(4-chlorobenzyl)-1H-pyrazol-4-amine dihydrochloride (1.0E2 mg, 0.00036 mol) and N,N-Dimethylacetamide (4.0 mL, 0.043 mol). The mixture was sparged with argon for ˜5 min. Sodium tert-butoxide (140 mg, 0.0015 mol) was added and the reaction mixture was heated at 120° C. for 30 min in microwave. The reaction mixture was filtered through celite. The filtrate was diluted with Ethyl acetate and washed with 0.1 N HCl solution. The aqueous phase was neutralized with 1.0 N NaOH solution, extracted with Ethyl acetate. The combined organic phase was washed with water (3×) and brine, dried over Na2SO4, filtered and was concentrated to give the crude product that was purified on Gilson (Prep LC, reverse phase, Phenomenex 250×30 mm, 15 micron C18 column, 40 mL/min. Gradient, 85% A to 100% B over 25 min. Solvent A: 7800 water/200 acetonitrile/8 TFA. Solvent B: 7200 acetonitrile/800 water/8). Fractions were checked by LC/MS and combined accordingly. LC/MS showed the product was only ˜90% pure. The combined product solution was concentrated to remove the acetonitrile, neutralized with 1.0 N NaOH solution and then extracted with Ethyl acetate (3×). The combined organic layers were dried over sodium sulfate, filtered and was concentrated to give the product as free base, which was purified again on ISCO (0% to 100% Ethyl acetate in DCM). 48 mg of the product was obtained as a pale yellow solid.

reactant | 6-Chloro-pyridine-3-sulfonic thiazol-2-ylamide | 0.00030 mol, 82 mg | S1C(=NC=C1)NS(=O)(=O)C=1C=NC(=CC1)Cl | C8H6ClN3O2S2
reactant | 9,9-DIMETHYL-4,5-BIS(DIPHENYLPHOSPHINO)XANTHENE | 0.000036 mol, 21 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | 1-(4-chlorobenzyl)-1H-pyrazol-4-amine dihydrochloride | 0.00036 mol, 1.0E2 mg | Cl.Cl.ClC1=CC=C(CN2N=CC(=C2)N)C=C1
reactant | N,N-Dimethylacetamide | 0.043 mol, 4.0 mL | CN(C(C)=O)C | C4H9NO
reactant | Sodium tert-butoxide | 0.0015 mol, 140 mg | CC(C)([O-])C.[Na+]
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.000012 mol, 11 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-(1-(4-chlorobenzyl)-1H-pyrazol-4-ylamino)-N-(thiazol-2-yl)pyridine-3-sulfonamide | 48 mg | ClC1=CC=C(CN2N=CC(=C2)NC2=CC=C(C=N2)S(=O)(=O)NC=2SC=CN2)C=C1 | C18H15ClN6O2S2
